High Pass Filter

*This code simulates a High Pass filter with cutoff frequency as 58Hz

*High Pass filter components-
C1 1 2 2.744u 
R1 2 0 1k

*Voltage Source-
Vin 1 0 dc 0 ac 1

*Control Block-
.control

*Sweep Settings-
ac dec 10 1 100Meg

*Color Settings-
set color0 = white
set color1 = black
set color2 = blue

*Plot Command-
plot vdb(2) xlog ylabel 'Gain (dB)'

.endc
